* C:\users\juani\Escritorio\TC2\tp_semanal_2\LT\tp2.asc
XU1 0 N006 N002 opamp Aol=100K GBW=10Meg
XU2 N001 0 N005 opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
R1 N001 N007 1k
R2 N005 N001 30k
R3 N002 N001 10k
R4 N004 N003 10k
R5 N002 N004 10k
R6 N006 N005 10k
C1 N005 N001 100µ
C2 N003 N006 100µ
V1 N007 0 AC 1
.lib opamp.sub
.ac dec 100 0.01 1k
.backanno
.end
