* C:\users\juani\Escritorio\TC2\tp_semanal_2\LT\tp2.asc
XU1 0 N006 N002 opamp Aol=100K GBW=10Meg
XU2 N001 0 N005 opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
R1 N001 N007 0.1
R2 N005 N001 3
R3 N002 N001 1
R4 N004 N003 1
R5 N002 N004 1
R6 N006 N005 1
C1 N005 N001 1
C2 N003 N006 1
V1 N007 0 AC 1
.lib opamp.sub
.ac dec 100 0.01 1
.backanno
.end
